Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cognitive decline
 
Major Surgical or Invasive Procedure:
Lumbar puncture ___

 
History of Present Illness:
Mrs ___ is a ___ year old woman with past medical history of
hypothyroidism, hyperlipidemia who presents for evaluation of a
rapidly progressive cognitive decline.  

History obtained by patient, family, and per chart review.  

Per chart review, Mrs. ___ is a ___ ___ 
___
who has suffered from a subtle progressive decline in short-term
memory (forgetting appointments, topics of recent conversation)
as well as visual-spatial deficits. Most noticeable to Mrs.
___ is her difficulty with visual perception, specifically
seeing lines and targeting objects in space, often missing the
object of target (placing golf ball on ground instead of on tee,
etc.) Although Mrs. ___ first noticed the spatial deficits 6
months ago, her husband reports that approximately one year ago,
she started to forget the time or location of specific
appointments. She came to Neurology attention with Dr. ___, ___), who became concerned with the
cognitive decline, and initiated testing including LP, MRI, 
labs.
The MRI, which is not available for review, reportedly showed
some mild white matter changes but no specific focal atrophy. 
Additional lab work  is outlined below in the lab section, but
was basically notable for a normal LP with a-beta and tau
pending, a borderline positive ___ to 1:80 (ref neg <1:80), and
positive thyroglobulin antibody.  There was concern for MS given
multiple white matter lesions, however oligoclonal bands was
negative.  The overall impression was that of posterior cortical
atrophy given the degree of visual perceptual loss, and there 
was
consideration of clinical trials with amyloid PET and 
aducanumab,
though she ultimately did not qualify.  The plan was for an FDG
PET to look for occult malignancy.  She was given a rivastigmine
patch as a trial.

In the meantime, she was referred to Dr. ___ in the
Cognitive Clinic in early ___. Examination at that time
notable for MoCA of ___, with special difficulty on
visuospatial and executive function tasks. There was no
parkinsonism. The overall impression was that of posterior
cortical atrophy, with plans for further investigative studies 
as
an inpatient.  

Today, she is accompanied by her husband and son. They note that
overall no significant changes in the past several weeks. She 
was
seen by Dr. ___ ___, who was concerned
about additional progression on cognitive testing, though the
details are unclear. They note that she had had a good holiday,
if somewhat stressed. She thinks she has been more irritable, 
and
has been yelling at her son more frequently. She has not been
driving (at the request of her family), and does not get lost,
although her husband mentioned that she gets very confused in
unfamiliar settings such as a mall. She does lose track of 
things
in the house, such as her cell phone. In addition, packing for
the trip from ___ to ___ was difficult, as she was very
poorly organized and could not pack in a systematic fashion, as
she is normally able to do. Otherwise, she remains in decent
spirits, and denies depression or anhedonia. 

Review of systems notable for no focal weakness, sensory 
changes.
She denies tremors.  She denies hallucinations.  She denies
difficulty sleeping.  Her husband has not noted any features of
REM behavior disorder.  In addition, there is no weight loss, or
constitutional symptoms.

 
Past Medical History:
Hypothyroidism, hyperlipidemia, GERD, anxiety/depression

 
Social History:
___
Family History:
There is no history of early cognitive decline in the family.  
No
other neurologic disorders.
 
 
Physical Exam:
Admission Physical Exam:  
General exam was notable for a well-nourished woman in no acute
distress.  She was very pleasant and interactive.  HEENT exam 
was
benign.  Heart was regular without murmurs gallops or rubs. 
Lungs were clear to auscultation bilaterally.  The abdomen was
soft nontender nondistended.  The extremities were without 
edema,
cyanosis.

Neurologic exam was notable for alert and oriented to self,
place, month date and year.  She is able to name the past 5
presidents.  She was inattentive, difficulty with months of the
year backwards with perseveration noted.  She could perform days
of the week backwards.  Her naming was intact to items on the
stroke card.  In describing the ___ picture, she was
fluent, though with occasional paraphasic errors.  She did not
have evidence of ideomotor apraxia to simple tasks including
combing hair and brushing her teeth.  She was able to follow
cross body commands without definitive left right confusion.  
She
could follow complex, multistep commands.  She could not perform
17+5.  She could register 3 items, with 0 out of 3 recall at 5
minutes.  With multiple choice, she was able to get 1 out of 3. 
On Luria sequence testing, she initially was able to perform 2
cycles, before breaking down and perseverating on the first 2
steps. Cranial nerve testing was notable for equally reactive 
pupils
from 3->2 mm.  Her extraocular movements were intact, with 
square
wave jerks noted.  Visual fields were full to confrontation. 
Facial sensation was intact to light touch bilaterally.  There
was no facial droop.  Hearing was intact.  Palate elevates
symmetrically.  Tongue was midline without fasciculations.
Motor testing reveals normal bulk and tone, without pronation or
drift.  There is no bradykinesia or rigidity.  There was no
tremor or asterixis or myoclonus noted.  Strength was full in 
all
muscle groups tested. Sensory exam showed no deficits to light 
touch, pinprick or cold sensation.  Proprioception was intact at 
the great toes
bilaterally. Deep tendon reflexes were 2+ throughout, without 
evidence of
hyperreflexia.  There was no clonus at the ankles or upgoing
toes. Coordination testing revealed no dysmetria on 
finger-nose-finger
or heel to shin.  Gait testing revealed a narrow based and 
stable
gait.  Romberg was negative.

Discharge physical exam: 
Alert, oriented to ___", she initially says 
___ but then corrects with encouragement to 
___. Language was
fluent with intact comprehension and normal prosody. She was 
able
to name high and low frequency items on stroke card. Speech was 
not dysarthric. Able to follow both midline and appendicular 
commands. She had some constructional apraxia. No acalculia on 
testing today (previously had), no agraphia, no finger agnosia 
on discharge (previously had), but did have some difficulty with 
right-left commands which she could perform with more 
concentration. Had agraphesthesia bilaterally. 
-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with square
wave jerks present.
 VII: No facial droop, facial musculature symmetric.
 XII: Tongue protrudes in midline.
-Motor: Normal bulk, increased tone at right and left ankles. No
pronator drift bilaterally. At rest, right ankle is in inverted 
position. suppressible athetoid movements of her lower 
extremities bilaterally.  
-Sensory: No deficits to light touch or proprioception.
-Coordination: finger to nose intact

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 07:30PM   VIT B12-509
___ 07:30PM   TSH-16*
___ 07:30PM   T4-4.2* T3-87
___ 07:30PM   ANCA-NEGATIVE B
___ 07:30PM   ___ TITER-1:160* CRP-2.4 
___ THAN  ANTITPO-54*
___ 07:30PM   IgA-231
___ 07:30PM   tTG-IgA-4
___ 03:25PM   ___ PTT-28.6 ___
___ 01:00PM   GLUCOSE-97 UREA N-11 CREAT-0.7 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-27 ANION GAP-13
___ 01:00PM   estGFR-Using this
___ 01:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:00PM URINE  HOURS-RANDOM
___ 01:00PM URINE  UHOLD-HOLD
___ 01:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___:00PM   WBC-5.9 RBC-4.44 HGB-13.8 HCT-41.7 MCV-94 
MCH-31.1 MCHC-33.1 RDW-12.5 RDWSD-43.2
___ 01:00PM   NEUTS-55.5 ___ MONOS-7.5 EOS-2.5 
BASOS-1.0 IM ___ AbsNeut-3.27 AbsLymp-1.96 AbsMono-0.44 
AbsEos-0.15 AbsBaso-0.06
___ 01:00PM   PLT COUNT-222
___ 01:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

IMAGING: 
========
+MRI with and without ___
There is no evidence of acute infarction.  No intracranial 
hemorrhage. No 
mass, mass effect, edema or midline shift. There is no abnormal 
enhancement.   The dural venous sinuses appear patent. 
  
The ventricles and sulci are normal in size.  Prominent retro 
cerebellar 
midline CSF space most likely represents a prominent cisterna 
magna.  Several  punctate areas of periventricular and deep 
white matter T2/FLAIR 
hyperintensity are nonspecific but most frequently seen in the 
setting of 
early chronic small vessel ischemic disease.  There is gross 
preservation of the principal intracranial vascular flow voids. 
  
Mild mucosal thickening is seen in scattered ethmoid air cells.  
The remainder  of the visualized paranasal sinuses, middle ear 
cavities, and mastoid air  cells are well aerated and clear.  
The orbits are within normal limits bilaterally. 

+EEG
This is an abnormal waking EEG because of the presence of 
diffuse 
slowing of background activity for age and the diffuse 
irregularity of this  background rhythm. This may represent 
either excessive drowsiness or the  beginning of the diffuse 
cortical-neuronal based encephalopathy. There are  intermittent 
focal features to the record. This activity takes the form of  
bilateral and independent temporal slowing with a left-sided 
predominance.  This represents the possibility of subcortical 
structural pathology or more likely vascular ischemic changes. 
No clear epileptic activity was identified. 

INTERVAL LABS: 
==============
___ 07:30PM BLOOD VitB12-509
___ 07:30PM BLOOD TSH-16*
___ 07:30PM BLOOD T4-4.2* T3-87
___ 07:30PM BLOOD ANCA-NEGATIVE B
___ 07:30PM BLOOD ___ Titer-1:160* CRP-2.4 
Anti-Tg-LESS THAN  antiTPO-54*
___ 07:30PM BLOOD IgA-231
___ 06:43AM BLOOD HIV Ab-NEG
___ 01:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:30PM BLOOD tTG-IgA-4

CSF: 
====
___ 02:11PM CEREBROSPINAL FLUID (CSF) TNC-9* RBC-1279* 
Polys-40 ___ Monos-6 Eos-1 Basos-2
___ 02:11PM CEREBROSPINAL FLUID (CSF) TotProt-50* 
Glucose-74

PRIOR ___ IN ___ (___)
================================
 Review of her outpatient records showed the following.
MRI brain on ___ showed no evident mass or hemorrhage,
multiple flair T2 hyperintensities in the periventricular and
subcortical white matter.
Hemoglobin A1c 5.8.  TSH 1.49.  Free T4 0.9.  Cholesterol 220. 
Triglyceride 399.  LDL 112.  HDL 49.  Vitamin B12 401. 
Homocystine 5.4.  Lyme antibody negative.  Rheumatoid factor
within normal limits.  Vitamin D 25-hydroxy 22.2. 
Varicella-zoster IgG positive.  Sed rate 9.  RPR nonreactive. 
___ 1:80 for speckled pattern.  Serum protein electrophoresis
within normal limits.  Thyroid anti-thyroglobulin antibodies
elevated to 2.1.  CSF oligoclonal bands negative.  CSF Lyme PCR
negative.  CSF results notable for protein of 40.7, WBC of 0. 
VDRL CSF was nonreactive.
 
Brief Hospital Course:
Mrs. ___ is a ___ year old lady with a history of 
hypothyroidism who presents with subacute progressive cognitive 
decline and was admitted for expedited ___. Per her husband 
and outpatient notes, it seems she has had increasing difficulty 
with memory, organization, visual-spatial tasks over the course 
of at least a year to year and a half. Furthermore, she has had 
progression to the point of having to leave her job in the past 
2 months, no longer being able to drive and also having 
difficulty with tasks around the house including folding laundry 
and cooking. 

Her exam during this hospitalization is notable for difficulty 
with visual spatial, executive functioning and attention (ie- 
she was unable to draw clock correctly as she had the numbers 
crowded and shifted to the right; she drew the cube as a square; 
she could not spell world backwards). She had significant 
difficulty with right and left commands, but could get this 
correct with significant focus. She had trouble with Luria 
sequencing and could only could do 2 slow passes. She was able 
to name high and low frequency items on stroke card. She was 
able to name her pointer finger and ring fingers. She has 
constructional apraxia. She had some non-rhythmic suppressible 
movements of the lower extremities which may be athetoid 
movements. She had increase tone in right knee and ankle and 
held the right foot inverted at rest (possible dystonia). 
Sensory exam was intact to light touch, pin prick and 
proprioception. She had no trouble with finger to nose testing. 
She had some problem with tandem gait and had diminished arm 
swing on the right. She does not have any focal weakness, 
clonus, bradykinesia or rigidity on exam. 

She had a prior ___ for cognitive decline in ___ 
with MRI showing multiple flair T2 hyperintensities in the 
periventricular and subcortical white matter. She had elevated 
anti-thyroglobulin antibodies to 2.1 but normal anti-TPO and 
TSH. She had a previously normal B12, vitamin D and 
homocysteine. She had ___ 1:80 (borderline). Normal SPEP. Lyme 
antibody was negative, RPR NR. CSF with protein of 40, WBC 0. 
CSF Oligoclonal bands negative. ___ and tau were not sent. 

She presented at the request of her outpatient neurologist, Dr. 
___ expedited ___ in the setting of family worrying 
about a more rapid decline over the past month. In the setting, 
she had a repeat MRI brain with contrast which showed bilateral 
R > L posterior cortical atrophy without evidence of cortical 
ribboning. She also had a repeat lumbar puncture which was a 
traumatic tap, with 9 wbcs (50% lymph), 1200 rbcs, protein 50, 
glucose 74. CSF for tau/beta, ___ pending at time of 
discharge.

Etiology of her presentation favors a neurodegenerative process, 
top on the differential being cortical basal degeneration, 
though Alzheimer's and ___ body disease are possible. She 
certainly has issues with executive function, visual-spatial 
tasks and Luria sequencing which would suggest neurodegenerative 
disease but other evidence of movement disorders are subtle. She 
does seem to have athetoid movements of her lower extremities, 
as well as dystonia and with time, we may see more Parkinsonian 
features emerge. 

In terms of other etiologies of early onset cognitive decline, 
CJD felt to be unlikely given time course of ___s 
no cortical or striatal FLAIR hyperintensities and lack of 
myoclonus on exam. Furthermore, EEG did not show ___ Hz 
triphasic sharp waves. In fact, EEG just showed a bilateral and 
independent temporal slowing with a left-sided predominance. 

In terms of alternative etiologies, autoimmune processes could 
be in the differential. She does have history of hypothyroidism 
with TSH of 16 and positive anti-TPO antibody during this 
admission. However, this may be from non-compliance with 
Synthroid rather than ___'s encephalitis given no 
seizures, no myoclonus and no encephalopathy. Also tested for 
sarcoidosis (ACE pending on discharge), ___ (positive, but titer 
pending at discharge), Sjogren's (pending at discharge), celiac 
ataxia (normal tTG-IgA ) and paraneoplastic process (panel 
pending at time of discharge; although time course makes this 
unlikely and she has no symptoms of underlying malignancy).

She will follow with cognitive neurology to determine further 
steps regarding further ___ (possibly to include PET) and 
treatment once her CSF studies return. She was also seen by OT 
who recommended outpatient OT. 

TRANSITIONAL ISSUES: 
====================
#No medication changes
[] Neurology to follow-up CSF studies for ___, tau/beta as 
well as other studies pending at discharge. 
[] Neurology to determine need for additional imaging (PET) to 
delineate underlying etiology of cognitive decline
[] Repeat thyroid function tests in 6 weeks. Current dose 150 
mcg daily. TSH on ___ was 16, but this was in the setting of 
non-compliance. 
[] Please ensure OT as outpatient. Referral Rx given on 
discharge. 
#Contact: Husband (___) ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Levothyroxine Sodium 150 mcg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. rivastigmine 4.6 mg/24 hr transdermal Q24H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
3.  Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Levothyroxine Sodium 150 mcg PO DAILY 
RX *levothyroxine 150 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
5.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
6.  rivastigmine 4.6 mg/24 hr transdermal Q24H 
RX *rivastigmine 4.6 mg/24 hour appl q24h Disp #*30 Patch 
Refills:*0 
7.Outpatient Occupational Therapy
Referral for occupational therapy for cognition therapy 
Date: ___
Referring physician: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subacute Progressive Cognitive Decline
Posterior Cortical Atrophy
Hypothyroidism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to the hospital because ___ have been having 
problems with your memory and organization. 

While ___ were in the hospital ___ had an MRI which showed some 
"atrophy" or decrease size of part of your brain which helps 
people coordinate vision and movements. ___ had a lumbar 
puncture ("spinal tap") to get a sample of your spinal fluid to 
determine what is causing this problem. These test will take 
some time to come back and Dr. ___ will communicate these 
results with ___ by phone. 

Now that ___ are leaving the hospital, ___ will follow-up with 
Dr. ___ to determine further imaging and treatments. We 
are working on scheduling this appointment for ___. In the 
meantime, continue to take your medicines as previously 
prescribed.

We also checked your thyroid levels which indicate ___ have low 
thyroid hormone. It is very important that ___ continue to take 
your thyroid medicine daily. Please have your thyroid levels 
rechecked by your primary care physician ___ 6 weeks. 

We also recommend ___ have occupational therapy as an outpatient 
for brain training.

We wish ___ the best, 
Your ___ Neurology Team
 
Followup Instructions:
___